US07531532B2
N-Benzyl-N-methyl-N-(2S)-oxiranylmethylamine
Sodium hydride (60%, 88 mg) was suspended in tetrahydrofuran (5 ml) at room temperature under nitrogen atmosphere, and N-methylbenzylamine (0.284 ml) was added dropwise while stirring. After 1 hour, (2R)-glycidyl tosylate (457 mg) was added thereto and the reaction mixture was stirred overnight at room temperature, then at 50° C. for 7.5 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was the purified by silica gel column chromatography (eluent; ethyl acetate) to provide the titled compound (225 mg, 64%) as a colorless oil.

reactant | Sodium hydride | 88 mg | [H-].[Na+]
reactant | N-methylbenzylamine | 0.284 ml | CNCC1=CC=CC=C1 | C8H11N
reactant | (2R)-glycidyl tosylate | 457 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]2CO2 | C10H12O4S
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-Benzyl-N-methyl-N-(2S)-oxiranylmethylamine | 225 mg, 64% | C(C1=CC=CC=C1)N(C[C@@H]1OC1)C | C11H15NO
